US04874781
F. 2-(4-chlorophenyl)-3-(trifluoromethyl)-butanoic acid
Similarly, Ethyl-2-(4-chlorophenyl)-3-(trifluoromethyl)-but-3-enoate is hydrogenated to ethyl-2-(4-chlorophenyl)-3-(trifluoromethyl)-butanoate nD 1.4709.

reactant | Ethyl-2-(4-chlorophenyl)-3-(trifluoromethyl)-but-3-enoate | C(C)OC(C(C(=C)C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C13H12ClF3O2
reactant | ethyl-2-(4-chlorophenyl)-3-(trifluoromethyl)-butanoate | C(C)OC(C(C(C)C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C13H14ClF3O2
product | 2-(4-chlorophenyl)-3-(trifluoromethyl)-butanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C(C)C(F)(F)F | C11H10ClF3O2
